US07888376B2
To a solution of 3-(3-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)-2,2-difluorobutanoic-(3-(dimethylamino)propyl)-N-ethylcarbamimidic anhydride (8 mg, 0.01 mmol) in THF (0.5 mL) was added CH3NH2HCl (7 mg, 0.10 mmol) and NEt3 (40 uL, 0.29 mmol). The reaction vessel was sealed and heated at 80° C. for 16 h, then allowed to cool to room temperature. The solvents were removed and the residue purified by preparative HPLC Phenomenex Luna AXIA 5u 21.2×100 mm eluting with 30-100% ACN (90% in H2O, 0.1% TFA) gradient over 10 min with UV detection at 220 nm to yield 3-(3-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)-2,2-difluoro-N-methylbutanamide as a white solid (2 mg, 32% yield). LCMS RT=1.97 min [M+H]=621.6 (LCMS Method 2). NMR: 500 MHz 1H (CDCl3) 8.25 ppm, 1H, m; 7.65 ppm, 1H, m; 7.36 ppm, 1H, m; 7.10 ppm, 5H, m; 6.89 ppm, 1H, m; 6.51 ppm, 3H, m; 5.86 ppm, 1H, J=65 Hz; 5.15 ppm, 1H, m; 4.48 ppm, 1H, m; 4.28 ppm, 1H, m; 3.50 ppm, 1H, m; 2.88 ppm, 3H, m; 1.20 ppm, 3H, m.

reactant | 3-(3-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)-2,2-difluorobutanoic-(3-(dimethylamino)propyl)-N-ethylcarbamimidic anhydride | 0.01 mmol, 8 mg | CN(CCCN(C(=N)OC(C(C(C)NC(=O)N[C@@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)C1=NC=C(C=C1)Cl)(F)F)=O)CC)C | C34H38ClF7N6O4
reactant | CH3NH2HCl | 0.10 mmol, 7 mg | CN.Cl
reactant | NEt3 | 0.29 mmol, 40 uL | CCN(CC)CC | C6H15N
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-(3-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)-2,2-difluoro-N-methylbutanamide | 2 mg, 32% yield | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(NC(C(C(=O)NC)(F)F)C)=O | C27H24ClF7N4O3
